US04517119
Fragment I was prepared by stepwise chain elongation using the mixed anhydride procedure at -15° C. with careful temperature control. As seen in the scheme of FIG. 2 mixed anhydride (M.A.) coupling (isobutylchloroformate) of Z-Glu(OtBu)-OH with H-Asn-OtBu provided Z-Glu(OtBu)-Asn-OtBu. Catalytic hydrogenation (10% Pd-C) of this compound cleaved the N-terminal protective group and the dipeptide was coupled to Z-Ala-OH using mixed anhydride coupling to give Z-Ala-Glu (OtBu)-Asn-OtBu. The N-terminal was again deprotected by catalytic hydrogenation and the tripeptide coupled with Z-Glu(OtBu)-OH to give the protected tetrapeptide Z-Glu(OtBu)-Ala-Glu(OtBu)-Asn-OtBu which is deblocked by catalytic hydrogenation to provide the desired protected tetrapeptide (1).

reactant | Z-Glu(OtBu)-OH | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H23NO6
reactant | H-Asn-OtBu | N[C@@H](CC(N)=O)C(=O)OC(C)(C)C | C8H16N2O3
product | Z-Glu(OtBu)-Asn-OtBu | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C25H37N3O8
